US08008296B2
[4-(2-Chloro-ethyl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
4-(2-Chloroethyl)benzoic acid (1.00 g, 5.4 mmol) is dissolved in thionyl chloride (6.0 mL) and stirred at 50° C. for 30 min. The excess thionyl chloride is removed in vacuo and the residue is dissolved in dichloromethane (2 mL) to make a solution of the acid chloride. Triethylamine (656 mg, 6.5 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (1.00 g, 6.5 mmol) are dissolved in dichloromethane (30 mL) and cooled to 0° C. The acid chloride solution is added to this mixture at 0° C. and stirred at room temperature for 2 h. The reaction mixture is diluted with CH2Cl2, washed with brine, dried over Na2SO4, and evaporated. The crude product is purified by silica-gel column chromatography (CH2Cl2:2M NH3 in MeOH=40:1) to give 1.35 g (80%) of the title compound. MS (APCI+) 321 (M+H)+.

reactant | 4-(2-Chloroethyl)benzoic acid | 5.4 mmol, 1.00 g | ClCCC1=CC=C(C(=O)O)C=C1 | C9H9ClO2
reactant | Triethylamine | 6.5 mmol, 656 mg | C(C)N(CC)CC | C6H15N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 6.5 mmol, 1.00 g | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | thionyl chloride | 6.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-(2-Chloro-ethyl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 1.35 g, 80% | ClCCC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C18H25ClN2O
